US08211908B2
To a solution of 1.7 g of 1-tert-butyl 4-ethyl 4-(3-hydroxypropyl)piperidine-1,4-dicarboxylate in 20 mL of tetrahydrofuran, 0.82 mL of triethylamine and 0.58 mL of methanesulfonyl chloride were added at 5° C., and the mixture was stirred at room temperature for 1 hour. Thereto were added ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 1.9 g of 1-tert-butyl 4-ethyl 4-(3-((methanesulfonyl)oxy)propyl)piperidine-1,4-dicarboxylate as a colorless oily substance.

reactant | 1-tert-butyl 4-ethyl 4-(3-hydroxypropyl)piperidine-1,4-dicarboxylate | 1.7 g | OCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C16H29NO5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | methanesulfonyl chloride | 0.58 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 0.82 mL | C(C)N(CC)CC | C6H15N
product | 1-tert-butyl 4-ethyl 4-(3-((methanesulfonyl)oxy)propyl)piperidine-1,4-dicarboxylate | 1.9 g | CS(=O)(=O)OCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C17H31NO7S
